US07109228B2
3-Chloro-5-methyl-2,4-hexanedione
Chlorotrimethylsilane (13.4 ml, 105 mmol) was added dropwise to a stirred pale yellow solution of tetrabutylammonium iodide (566 mg, 1.53 mmol) in dry acetonitrile (100 ml) at room temperature under nitrogen. The resulting solution was cooled in ice and 5-methylhexane-2,4-dione (4.50 g, 35.1 mmol) and then dry dimethylsulphoxide (7.47 ml, 105 mmol) were added dropwise over 5 minutes producing a yellow solution which was allowed to warm slowly to room temperature with stirring over 1 hour. Tetrabutylammonium bromide (566 mg, 1.75 mmol) was then added in one portion and the reaction was stirred at room temperature for 2 hours. The mixture was diluted with water (200 ml), stirred for 10 min and then extracted with ether (3×100 ml). The combined ether layers were dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave a yellow oil. The crude product was purified by flash column chromatography on silica gel eluting with pentane:ethyl acetate (98:2, by volume) to provide the title compound (2.00 g) as a colourless oil.

reactant | Chlorotrimethylsilane | 105 mmol, 13.4 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 5-methylhexane-2,4-dione | 35.1 mmol, 4.50 g | CC(C(CC(C)=O)=O)C | C7H12O2
reactant | dimethylsulphoxide | 105 mmol, 7.47 ml | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium iodide | 1.53 mmol, 566 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | Tetrabutylammonium bromide | 1.75 mmol, 566 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 200 ml | O | H2O
product | 3-Chloro-5-methyl-2,4-hexanedione | 2.00 g | ClC(C(C)=O)C(C(C)C)=O | C7H11ClO2
